US06169107A
A mixture of 1.34 g (3.53 mmol) of ethyl 4-chloro-6-[4-(chloromethyl)phenoxy]-1-methyl-2-indolecarboxylate, 8.0 g of dimethylamine and 80 ml of dimethylformamide was stirred at 0° C. for 3 hours. The reaction mixture was poured onto ice water. The resulting mixture was then extracted three times with ethyl acetate. The combined extracts were washed with saturated sodium chloride aqueous solution. After drying over anhydrous magnesium sulfate, the solvent was distilled off under reduced pressure and the residue was isolated and purified by silica gel column chromatography to give 0.29 g (21.2%) of ethyl 4-chloro-6-[4-(dimethylaminomethyl)phenoxy]-1-methyl-2-indolecarboxylate.

reactant | ethyl 4-chloro-6-[4-(chloromethyl)phenoxy]-1-methyl-2-indolecarboxylate | 3.53 mmol, 1.34 g | ClC1=C2C=C(N(C2=CC(=C1)OC1=CC=C(C=C1)CCl)C)C(=O)OCC | C19H17Cl2NO3
reactant | dimethylamine | 8.0 g | CNC | C2H7N
solvent | dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
product | ethyl 4-chloro-6-[4-(dimethylaminomethyl)phenoxy]-1-methyl-2-indolecarboxylate | 0.29 g, 21.2% | ClC1=C2C=C(N(C2=CC(=C1)OC1=CC=C(C=C1)CN(C)C)C)C(=O)OCC | C21H23ClN2O3
